US07125896B2
b) 4-(2-[cyclopropylmethoxy]ethoxy)-bromobenzene
Prepared by the method of Example 10 (b) using 2-(4-bromophenoxyl)ethanol and cyclopropylmethyl bromide.

reactant | 2-(4-bromophenoxyl)ethanol | BrC1=CC=C(OCCO)C=C1 | C8H9BrO2
reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
product | 4-(2-[cyclopropylmethoxy]ethoxy)-bromobenzene | C1(CC1)COCCOC1=CC=C(C=C1)Br | C12H15BrO2
